US05891871
Methyl 2-Benzoyl-4,5-methylenedioxyphenylacetate
To a solution of methyl 3,4-methylenedioxyphenylacetate (150 mg, 0.77 mmol) in CH2Cl2 (5 mL) was added SnCl4 (1.0M solution in CH2Cl2 ; 1.5 mL, 1.5 mmol) at 0° C. Then benzoyl chloride (130 μL, 1.1 mmol) was added. The reaction mixture was allowed to warm slowly to room temperature. After 24 h, the mixture was added to a saturated NaHCO3 solution (30 mL), diluted with 1:1 hexane/EtOAc (60 mL), washed with water and brine, and dried over Na2SO4. The solvent was removed in vacuo and the resulting residue was separated by chromatography on silica gel (4:1 hexane/EtOAc) to yield the title compound (110 mg, 48%). 1H NMR (CDCl3) 7.78-7.45 (m, 5H), 6.88 (s, 1H), 6.84 (s, 1H), 6.04 (s, 2H), 3.80 (s, 2H), 3.61 (s, 3H).

reactant | methyl 3,4-methylenedioxyphenylacetate | 0.77 mmol, 150 mg | C1OC=2C=C(C=CC2O1)CC(=O)OC | C10H10O4
reactant | SnCl4 | 1.5 mmol, 1.0M, 1.5 mL | Cl[Sn](Cl)(Cl)Cl
reactant | benzoyl chloride | 1.1 mmol, 130 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | hexane EtOAc | 60 mL | CCCCCC.CCOC(=O)C
product | Methyl 2-Benzoyl-4,5-methylenedioxyphenylacetate | 110 mg, 48% | C(C1=CC=CC=C1)(=O)C1=C(C=C2C(=C1)OCO2)CC(=O)OC | C17H14O5
